US07671080B2
5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (2-methoxyethyl)amide
5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (1.00 g, 2.77 mmol) was suspended in anhydrous DCM (20 ml) and thionyl chloride (0.5 ml, 6.85 mmol) added. The reaction was heated under reflux for 3 h then evaporated to dryness. The residue was dissolved in anhydrous DCM and spit into 4 aliquots, one aliquot was added to a solution of methoxyethylamine (0.075 ml, 1.00 mmol) and triethylamine (0.14 ml, 1.00 mmol) in DCM (5 ml). After stirring for 2 h the reaction was washed with water (2 ml) then evaporated to dryness. Crude product was purified by silica chromatography using DCM as eluent then crystallised from DCM:diethyl ether to provide crystalline title compound.

reactant | 5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid | 2.77 mmol, 1.00 g | C(#N)C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)OC(F)(F)F)C(=O)O | C18H11F3N2O3
reactant | thionyl chloride | 6.85 mmol, 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methoxyethylamine | 1.00 mmol, 0.075 ml | COCCN | C3H9NO
reactant | triethylamine | 1.00 mmol, 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-Cyano-1-(3-trifluoromethoxybenzyl)-1H-indole-2-carboxylic acid (2-methoxyethyl)amide | COCCNC(=O)C=1N(C2=CC=C(C=C2C1)C#N)CC1=CC(=CC=C1)OC(F)(F)F | C21H18F3N3O3
